US04837335
(a) Phenyldiazonium chloride
93.1 g (1 mole) of aniline were initially introduced into 250 ml of water and 557 ml of 35% strength hydrochloric acid and a solution of 69 g (1 mole) of sodium nitrite in 250 ml of water was added dropwise at 0° C., with stirring.

reactant | aniline | 1 mole, 93.1 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 1 mole, 69 g | N(=O)[O-].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | Phenyldiazonium chloride | [Cl-].C1(=CC=CC=C1)[N+]#N | InChI=1S/C6H5N2.ClH/c7-8-6-4-2-1-3-5-6;/h1-5H;1H/q+1;/p-1
